US06326386B1
3-({3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-phenyl-amino)-propionic acid methyl ester
2M Oxalyl chloride solution in dichloromethane (1.8 ml), and DMF (0.05 ml) were added to a suspension of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (1.18 g) in anhydrous dichloromethane (30 ml). The reaction was stirred at room temperature for 1 h then 3-phenylamino-propionic acid methyl ester (0.644 g), DMAP (0.036 g) and DIPEA (1.04 ml) were added. The reaction mixture was stirred at room temperature for 20 h and partitioned between ethyl acetate and 1M aqueous hydrochloric acid. The aqueous layer was removed and the organic phase washed with saturated aqueous sodium bicarbonate, water and dried with brine and over sodium sulphate and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with ethyl acetate:petroleum ether (4:1 v/v) and neat ethyl acetate, to give the title compound as a colourless gum (1.22 g).

reactant | Oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 1.18 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | 3-phenylamino-propionic acid methyl ester | 0.644 g | COC(CCNC1=CC=CC=C1)=O | C10H13NO2
reactant | DIPEA | 1.04 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.036 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 3-({3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-phenyl-amino)-propionic acid methyl ester | 1.22 g | COC(CCN(C1=CC=CC=C1)C(C1=CC(=CC(=C1)Cl)OCCN(C1=CC=NC=C1)C(=O)OC(C)(C)C)=O)=O | C29H32ClN3O6
